US07691882B2
3-(2-Nitro-ethyl)-5-phenoxy-pyridine
To an acetic acid (15 mL) solution of 5-phenoxy-pyridine-3-carbaldehyde (607 mg, 3.05 mmol) described in Manufacturing Example 145-1-3 were added nitromethane (826 μL, 15.3 mmol) and ammonium acetate (470 mg, 6.10 mmol), which was stirred for 3 hours at 100° C. under nitrogen atmosphere. Water was added at room temperature to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. To a solution of this residue in dimethyl sulfoxide (10 mL) and acetic acid (1 mL) was added sodium borohydride (182 mg, 4.58 mmol), which was stirred for 20 minutes at room temperature. Sodium hydrogencarbonate and water were added to the reaction mixture at room temperature while cooling appropriately, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (210 mg, 28%).

reactant | 5-phenoxy-pyridine-3-carbaldehyde | 3.05 mmol, 607 mg | O(C1=CC=CC=C1)C=1C=C(C=NC1)C=O | C12H9NO2
reactant | nitromethane | 15.3 mmol, 826 μL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 6.10 mmol, 470 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 4.58 mmol, 182 mg | [BH4-].[Na+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 3-(2-Nitro-ethyl)-5-phenoxy-pyridine | 210 mg, 28% | [N+](=O)([O-])CCC=1C=NC=C(C1)OC1=CC=CC=C1 | C13H12N2O3
